US07244730B2
(Step 6) 5-Bromo-1-(tert-butyl)-3-ethoxy-2-(methoxymethoxy)benzene
Cesium carbonate (10.05 g, 30.9 mmol) and EtI (2.58 ml, 32.2 mmol) were added to a solution of the 5-bromo-3-(tert-butyl)-2-(methoxymethoxy)phenol (7.76 g, 26.8 mmol) in acetonitrile and the mixture was stirred at room temperature for 3 hours. Ethyl acetate was added and the reaction mixture was washed with water and brine in that order. The organic layer was dried over anhydrous magnesium sulfate and then the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (6.5 g) as a yellow oil.

reactant | Cesium carbonate | 30.9 mmol, 10.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtI | 32.2 mmol, 2.58 ml | C(C)I | C2H5I
reactant | 5-bromo-3-(tert-butyl)-2-(methoxymethoxy)phenol | 26.8 mmol, 7.76 g | BrC=1C=C(C(=C(C1)O)OCOC)C(C)(C)C | C12H17BrO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-Bromo-1-(tert-butyl)-3-ethoxy-2-(methoxymethoxy)benzene | 6.5 g | BrC=1C=C(C(=C(C1)C(C)(C)C)OCOC)OCC | C14H21BrO3
